US09029388B2
B) 1-[4-(1H-benzimidazol-2-yloxy)phenyl]-2-methyl-1,2-dihydro-3H-pyrazolo[3,4-b]pyridin-3-one
A mixture of 2-chloro-1H-benzimidazole (0.057 g), 1-(4-hydroxyphenyl)-2-methyl-1,2-dihydro-3H-pyrazolo[3,4-b]pyridin-3-one (0.060 g) and triethylamine (3.5 ml) was stirred under a nitrogen atmosphere at 160° C. for 16 hr. The reaction mixture was cooled to room temperature, diluted with methanol, and silica gel was added. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (0.012 g).

reactant | 2-chloro-1H-benzimidazole | 0.057 g | ClC1=NC2=C(N1)C=CC=C2 | C7H5ClN2
reactant | 1-(4-hydroxyphenyl)-2-methyl-1,2-dihydro-3H-pyrazolo[3,4-b]pyridin-3-one | 0.060 g | OC1=CC=C(C=C1)N1N(C(C=2C1=NC=CC2)=O)C | C13H11N3O2
reactant | triethylamine | 3.5 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | CO | CH4O
product | 1-[4-(1H-benzimidazol-2-yloxy)phenyl]-2-methyl-1,2-dihydro-3H-pyrazolo[3,4-b]pyridin-3-one | 0.012 g | N1C(=NC2=C1C=CC=C2)OC2=CC=C(C=C2)N2N(C(C=1C2=NC=CC1)=O)C | C20H15N5O2
